US08217065B2
C. [3-(4-{6-[5-(4-Chlorophenyl)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazol-2-yl}-3,5-dimethylphenyl)-propyl]-phosphonic acid
To a solution of [(E)-3-(4-{6-[5-(4-chlorophenyl)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazol-2-yl}-3,5-dimethylphenyl)-allyl]-phosphonic acid diethyl ester (1.44 g, 2.5 mmol) in CH2Cl2 (15 mL) was added trimethylsilylbromide (1.62 mL, 12.5 mmol) and the mixture was stirred at RT for 18 h. The solvent was removed under reduced pressure and the residue was purified by reverse phase HPLC using a gradient of 0-80% MeCN/water containing 0.7% NH4OH to give the title compound. MS: m/z 523.1 (M+1). H1-NMR (DMSO-d6): δ ppm 8.46 (s, 0.6H), 8.19 (d, J=8.59 Hz, 2H), 8.0 (d, J=8.21 Hz, 1H), 7.88 (s, broad, 0.4H), 7.72 (d, J=8.59 Hz, 2H), 7.05 (s, 2H), 2.64 (t, 2H), 2.11 (s, 6H), 1.78 (m, 2H), 1.41 (m, 2H).

reactant | [(E)-3-(4-{6-[5-(4-chlorophenyl)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazol-2-yl}-3,5-dimethylphenyl)-allyl]-phosphonic acid diethyl ester | 2.5 mmol, 1.44 g | C(C)OP(OCC)(=O)C\C=C\C1=CC(=C(C(=C1)C)C1=NC2=C(N1)C=C(C=C2)C=2OC(=NN2)C2=CC=C(C=C2)Cl)C | C30H30ClN4O4P
reactant | trimethylsilylbromide | 12.5 mmol, 1.62 mL | C[Si](C)(C)Br | C3H9BrSi
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | [3-(4-{6-[5-(4-Chlorophenyl)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazol-2-yl}-3,5-dimethylphenyl)-propyl]-phosphonic acid | ClC1=CC=C(C=C1)C1=NN=C(O1)C=1C=CC2=C(NC(=N2)C2=C(C=C(C=C2C)CCCP(O)(O)=O)C)C1 | C26H24ClN4O4P
